US08222424B2
2-Chloro-5-(4-piperidin-1-yl-benzoyl)-benzenesulfonamide
A solution of 300 mg of 4-chloro-3-sulfamoyl-benzoyl chloride (1.186 mmol, 1 equivalent) in 20 mL of dichloromethane is stirred at room temperature as 2.37 mL of diethyl aluminum chloride (1.0 M in hexane) is added drop-wise. The reaction is stirred at room temperature for 10 minutes, then 229 mg of 1-phenyl piperidine is added. The reaction is stirred at room temperature for 30 minutes. The reaction mixture is poured onto ice-2 N HCl and extracted with dichloromethane. The aqueous layer is then basified with 2 N sodium hydroxide and extracted with dichloromethane. The combined organic extracts are washed with water, dried over sodium sulfate, and concentrated in vacuo. After purification by flash chromatography, 180 mg of product is obtained. 1H NMR (400 MHz, CDCl3): δ 1.69 (s, 6H), 3.18 (m, 1H), 3.42 (s, 3H), 5.18 (s, 2H), 6.86 (d, 2H, J=8 Hz), 7.62 (d, 1H, J=8 Hz), 7.70 (d, 2H, J=8 Hz), 7.87 (d, 1H, J=8 Hz), 8.42 (s, 1H). MS (m/z): 379 (M+1). Analytics calculated for C18H19ClN2O3S: C, 57.06; H, 5.05; N, 7.39. Found: C, 56.88; H, 5.04; N, 7.13.

reactant | 4-chloro-3-sulfamoyl-benzoyl chloride | 1.186 mmol, 300 mg, 1 equivalent | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | diethyl aluminum chloride | 1.0 M, 2.37 mL | [Cl-].C(C)[Al+]CC
reactant | 1-phenyl piperidine | 229 mg | C1(=CC=CC=C1)N1CCCCC1 | C11H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-(4-piperidin-1-yl-benzoyl)-benzenesulfonamide | 180 mg | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)N1CCCCC1)=O)S(=O)(=O)N | C18H19ClN2O3S
